US04404402
Preparation of 2,4-dibromo-6-(methylsulfonyl)aniline.
A solution of 2-fluorosulfonyl-4,6-dibromoaniline (7.19 g; 0.0216 mol) in ether (100 ml) is cooled to -65° C. under a nitrogen atmosphere and a solution of methyllithium in ether (37.5 ml of 1.8 M; 0.0675 mol) is added via a syringe. The mixture is allowed to warm to 0° C., the solution is poured into ice, and the ether layer is separated. The aqueous layer is extracted with ether (3×100 ml) and the ether layers are combined. The solvent is removed under reduced pressure and the residue crystallized from petroleum ether to afford the title product.

reactant | 2-fluorosulfonyl-4,6-dibromoaniline | 0.0216 mol, 7.19 g | FS(=O)(=O)C1=C(N)C(=CC(=C1)Br)Br | C6H4Br2FNO2S
reactant | methyllithium | C[Li]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 0.0675 mol, 1.8 M, 37.5 ml | CCOCC | C4H10O
product | 2,4-dibromo-6-(methylsulfonyl)aniline | BrC1=C(N)C(=CC(=C1)Br)S(=O)(=O)C | C7H7Br2NO2S
